US07456164B2
2-[4-(4-(3-pyrrolidin-1-ylpropoxy)phenyl)tetrahydro-2H-pyran-4-yl]-1,3-thiazole
4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbothioamide (150 mg, 0.43 mmol), bromoacetaldehyde diethylacetal (67 μL, 0.43 mmol), concentrated hydrochloric acid (5 drops) and ethanol were combined and heated at reflux for 5 hours. The reaction mixture was concentrated in vacuo and partitioned between 10% Na2CO3 (20 mL) and dichloromethane (2×35 mL). The combined organics were dried using Na2SO4, filtered and concentrated in vacuo. The compound was purified using column chromatography using 15 g of silica gel, eluting with dichloromethane:methanol:ammonia (95:5:0.5) to give a cream coloured solid. This was triturated with 3 mL of diethyl ether to give the title compound as a cream coloured solid (25 mg, 16%). 1H NMR (400 MHz, CD3OD) δ7.7 (s, 1H), 7.45 (s, 1H), 7.3 (d, 2H), 6.9 (d, 2H), 4.0 (t, 2H), 3.8 (m, 2H), 3.7 (m, 2H), 2.85-2.75 (m, 6H), 2.6 (m, 2H), 2.4 (m, 2H), 2.03 (m, 2H), 1.9 (m, 4H)

reactant | 4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbothioamide | 0.43 mmol, 150 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C(N)=S | C19H28N2O2S
reactant | bromoacetaldehyde diethylacetal | 0.43 mmol, 67 μL | C(C)OC(CBr)OCC | C6H13BrO2
catalyst | hydrochloric acid | 5 drops | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-[4-(4-(3-pyrrolidin-1-ylpropoxy)phenyl)tetrahydro-2H-pyran-4-yl]-1,3-thiazole | 25 mg, 16% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C=1SC=CN1 | C21H28N2O2S
